US06197779B1
1,1-Dimethoxy-N,N-dimethylmethanamine (0.152 mol) was added to 4-[[4-amino-6-[(2,6-dichlorophenyl)methyl]-2-pyrimidinyl]amino]benzonitrile (0.0008 mol). The mixture was stirred at room temperature for 2 days and then concentrated. The crude product was purified by flash chromatography over silica gel (eluent: CH2Cl2/CH3OH 99/1). The desired fraction was collected and the solvent was evaporated. The resulting residue was triturated with hexane, yielding 0.15 g (42%) of N′-[2-[(4-cyano-phenyl)amino]-6-[(2,6-dichlorophenyl)methyl]-4-pyrimidinyl]-N,N-dimethyl-methanimidamide (comp. 26; mp. 175-180° C.).

reactant | 1,1-Dimethoxy-N,N-dimethylmethanamine | 0.152 mol | COC(N(C)C)OC | C5H13NO2
reactant | 4-[[4-amino-6-[(2,6-dichlorophenyl)methyl]-2-pyrimidinyl]amino]benzonitrile | 0.0008 mol | NC1=NC(=NC(=C1)CC1=C(C=CC=C1Cl)Cl)NC1=CC=C(C#N)C=C1 | C18H13Cl2N5
product | N′-[2-[(4-cyano-phenyl)amino]-6-[(2,6-dichlorophenyl)methyl]-4-pyrimidinyl]-N,N-dimethyl-methanimidamide | 0.15 g, 42% | C(#N)C1=CC=C(C=C1)NC1=NC(=CC(=N1)N=CN(C)C)CC1=C(C=CC=C1Cl)Cl | C21H18Cl2N6
